US06166038
Preparation of 5-(4-chlorophenyl)-3-(1-phenylpiperidin-4-yl)-carbonylaminopyrazole
3-Amino-5-(4-chlorophenyl)pyrazole (23 mg) and 1-phenylpiperidine-4-carboxylic acid hydrochloride (28 mg) were dissolved in pyridine (5 ml) to which was subsequently added 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (35 mg), and the mixture was stirred overnight at room temperature. The reaction solution was diluted with ethyl acetate (30 ml), washed with water (30 ml), saturated aqueous sodium bicarbonate (30 ml) and saturated brine (30 ml) and then dried over anhydrous magnesium sulfate. Then, the solvent was distilled away. The resulting residue was crystallized from ethyl ether to obtain the title compound (20 mg) as white crystals (melting point: 209-211° C.).

reactant | 3-Amino-5-(4-chlorophenyl)pyrazole | 23 mg | NC1=NNC(=C1)C1=CC=C(C=C1)Cl | C9H8ClN3
reactant | 1-phenylpiperidine-4-carboxylic acid hydrochloride | 28 mg | Cl.C1(=CC=CC=C1)N1CCC(CC1)C(=O)O
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 35 mg | Cl.CN(CCCN=C=NCC)C
reactant | ethyl acetate | 30 ml | C(C)(=O)OCC | C4H8O2
solvent | pyridine | 5 ml | N1=CC=CC=C1 | C5H5N
product | 5-(4-chlorophenyl)-3-(1-phenylpiperidin-4-yl)-carbonylaminopyrazole | 20 mg | ClC1=CC=C(C=C1)C1=C(C(=NN1)C1CCN(CC1)C1=CC=CC=C1)N=C=O | C21H19ClN4O
